US08492378B2
(1R)-1-[5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]ethyl acetate
To a solution of (1S)-1-[5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]ethanol (390 mg, 1.00 mmol), acetic acid (0.114 mL, 2.00 mmol) and triphenylphosphine (394 mg, 1.50 mmol) in tetrahydrofuran (5 mL) was added dropwise 40% diethyl azodicarboxylate-toluene solution (0.653 mL, 1.50 mmol) at 0° C., and the resulting mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=10/1-0/1) to give the title compound (406 mg, yield 94%) as a colorless oil.

reactant | (1S)-1-[5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]ethanol | 1.00 mmol, 390 mg | FC(OC=1C=C(C=CC1)C1=COC2=C1C=C(C=C2)C2=NN=C(O2)[C@H](C)O)(F)F | C19H13F3N2O4
reactant | acetic acid | 2.00 mmol, 0.114 mL | C(C)(=O)O | C2H4O2
reactant | triphenylphosphine | 1.50 mmol, 394 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate toluene | 1.50 mmol, 0.653 mL | N(=NC(=O)OCC)C(=O)OCC.C1(=CC=CC=C1)C
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1R)-1-[5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]ethyl acetate | 406 mg, yield 94% | C(C)(=O)O[C@H](C)C=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC(=CC=C2)OC(F)(F)F)C1 | C21H15F3N2O5
